US08703768B2
Step 3: 6-Cyclopropyl-3-(pyridin-3-ylamino)-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 6-cyclopropyl-3-(pyridin-3-ylamino)pyrazine-2-carboxylic acid (30 mg, 0.12 mmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (23 mg, 0.15 mmol) according to the method described in example 64, step 6 as yellow solid (30 mg, 64%).

reactant | 6-cyclopropyl-3-(pyridin-3-ylamino)pyrazine-2-carboxylic acid | 0.12 mmol, 30 mg | C1(CC1)C1=CN=C(C(=N1)C(=O)O)NC=1C=NC=CC1 | C13H12N4O2
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 0.15 mmol, 23 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 6-Cyclopropyl-3-(pyridin-3-ylamino)-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=CN=C1NC=1C=NC=CC1)C1CC1 | C19H20N8O2
